US05892048
To a solution of 0.8 g of 5-(4-hydroxybenzyl)-3-(2,6-difluorophenyl)-1-methyl 1H-1,2,4-triazole in 10 ml of DMF at room temperature were added 0.4 g of anhydrous potassium carbonate and 0.63 g of 2,3-dichioro-5-trifluoromethylpyridine and then the suspension solution was heated to 70° C. or 1 hour. After cooling, the reaction mixture was poured into iced water and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography to afford 0.55 g of 5-(4-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-benzyl)-3-(2,6-difluorophenyl)-1-methyl-1H-1,2,4-triazole.

reactant | 5-(4-hydroxybenzyl)-3-(2,6-difluorophenyl)-1-methyl 1H-1,2,4-triazole | 0.8 g | OC1=CC=C(CC2=NC(=NN2C)C2=C(C=CC=C2F)F)C=C1 | C16H13F2N3O
reactant | potassium carbonate | 0.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,3-dichioro-5-trifluoromethylpyridine | 0.63 g | ClC1=NC=C(C=C1Cl)C(F)(F)F | C6H2Cl2F3N
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 5-(4-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-benzyl)-3-(2,6-difluorophenyl)-1-methyl-1H-1,2,4-triazole | 0.55 g | ClC=1C(=NC=C(C1)C(F)(F)F)OC1=CC=C(CC2=NC(=NN2C)C2=C(C=CC=C2F)F)C=C1 | C22H14ClF5N4O
